US06194461B1
1) 2-methyl-2-nitro-1-acetoxypropane
Acetic anhydride (0.34 ml, 3.60 mmol) was added to a solution of 2-methyl-2-nitro-1-propanol (375.4 mg, 3.15 mmol) and triethylamine (0.80 ml, 5.74 mmol) in dichloromethane (5 ml) and stirred for 2.5 hours. The mixture was concentrated and purified by silica gel chromatography (hexane/ether=3/1) to give the title compound (467.8 mg; 92%).

reactant | Acetic anhydride | 3.60 mmol, 0.34 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methyl-2-nitro-1-propanol | 3.15 mmol, 375.4 mg | CC(CO)(C)[N+](=O)[O-] | C4H9NO3
reactant | triethylamine | 5.74 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-methyl-2-nitro-1-acetoxypropane | 467.8 mg, 92% | CC(COC(C)=O)(C)[N+](=O)[O-] | C6H11NO4
